US04299824
Cinnamyl bromide (3.04 g) was added to a stirred solution of 4-mercapto-1-β-D-ribofuranosylpyrazolo[3,4-d]-pyrimidine (4.0 g) and potassium carbonate (2.13 g) in N,N-dimethylformamide. The solution was heated (40° C. on an oil bath) for 2 hours. After cooling the reaction mixture was poured into water (0.6 l) and the resultant precipitate was collected and washed with water. The 4-cinnamylthio-1-β-D-ribofuranosylpyrazolo[3,4-d]pyrimidine so obtained was recrystallised from methanol, washed with water and dried (in vacuo at 55° C.), yield 3.2 g, m.p. 165°-166° C.

reactant | Cinnamyl bromide | 3.04 g | C(C=CC1=CC=CC=C1)Br | C9H9Br
reactant | 4-mercapto-1-β-D-ribofuranosylpyrazolo[3,4-d]-pyrimidine | 4.0 g | SC1=C2C(=NC=N1)N(N=C2)[C@H]2[C@H](O)[C@H](O)[C@H](O2)CO | C10H12N4O4S
reactant | potassium carbonate | 2.13 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 0.6 l | O | H2O
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 4-cinnamylthio-1-β-D-ribofuranosylpyrazolo[3,4-d]pyrimidine | C(C=CC1=CC=CC=C1)SC1=C2C(=NC=N1)N(N=C2)[C@H]2[C@H](O)[C@H](O)[C@H](O2)CO | C19H20N4O4S
